US06727264B1
[(4-CHLOROBUTYL)SULFANYL]BENZENE:
Prepared by Procedure R and Scheme Z using benzenethiol and 1-bromo-4-chlorobutane.

reactant | benzenethiol | C1(=CC=CC=C1)S | C6H6S
reactant | 1-bromo-4-chlorobutane | BrCCCCCl | C4H8BrCl
product | [(4-CHLOROBUTYL)SULFANYL]BENZENE | ClCCCCSC1=CC=CC=C1 | C10H13ClS
